US07576215B2
{2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-3-THIENYL}ACETIC ACID
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and (2-formyl-thiophen-3-yl)-acetic acid methyl ester according to the procedure of Example 66. MS (ES) m/z 531.1.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | (2-formyl-thiophen-3-yl)-acetic acid methyl ester | COC(CC1=C(SC=C1)C=O)=O | C8H8O3S
product | {2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-3-THIENYL}ACETIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1SC=CC1CC(=O)O)C(F)(F)F | C30H23F3N2O2S
